US08211908B2
To a solution of 0.10 g of 2-chloro-5-fluoro-3-((methoxymethoxy)methyl)pyridine in 3 mL of dioxane, 0.20 g of potassium carbonate, 68 μL of trimethylboroxin and 56 mg of tetrakis(triphenylphosphine)palladium(0) were added, and the mixture was heated under reflux while stirring for 2 hours under a nitrogen atmosphere. Thereto were added 0.20 g of potassium carbonate, 68 μL of trimethylboroxin and 56 mg of tetrakis(triphenylphosphine)palladium(0), and the mixture was heated under reflux while stirring for 2 hours under a nitrogen atmosphere. Thereto were added 0.20 g of potassium carbonate, 68 μL of trimethylboroxin and 56 mg of tetrakis(triphenylphosphine)palladium(0), and the mixture was heated under reflux while stirring for 1 hour under a nitrogen atmosphere. The insoluble substance was filtered off, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using an eluent of chloroform:methanol=100:1 to obtain 93 mg of a colorless oily substance. The substance was purified by basic silica gel column chromatography using an eluent of chloroform to obtain 64 mg of 5-fluoro-3-((methoxymethoxy)methyl)-2-methylpyridine as a colorless oily substance.

reactant | 2-chloro-5-fluoro-3-((methoxymethoxy)methyl)pyridine | 0.10 g | ClC1=NC=C(C=C1COCOC)F | C8H9ClFNO2
reactant | potassium carbonate | 0.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylboroxin | 68 μL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | 0.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylboroxin | 68 μL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | 0.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylboroxin | 68 μL | CB1OB(OB(O1)C)C | C3H9B3O3
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 56 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 56 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 56 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-fluoro-3-((methoxymethoxy)methyl)-2-methylpyridine | 64 mg | FC=1C=C(C(=NC1)C)COCOC | C9H12FNO2
